Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
pneumonia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ year old woman with history of schizophrenia who 
is referred from ___ psych unit with report of pneumonia.

She was ___ in ___ due to poor ability to care for 
self at her home, reportedly living in deplorable condition at 
home. She was transferred to ___ psych facility about 1 
week ago. History limited due to patient's psychosis. She has 
been "self dialoguing", very poor ADLs, incontinent of urine, 
keeps to herself, never agitated. She is on court ordered psych 
medications, which include cogentin and invega. Per chart review 
and collateral from psych facility, pt has been having a 
productive cough with green sputum for past 2 days. She was 
found to be febrile on AM vitals, a CXR there showed a 
pneumonia, and was transferred here.

In the ED, initial VS were: 99.0 150 ___ 94% RA 
ED labs were notable for D-dimer 1693
Na 131
WBC 13

CT showed multiple consolidations involving the left upper and 
left lower lobes compatible with multifocal pneumonia, diffuse 
bronchial wall thickening likely representing inflammation and 
T6 vertebral body compression deformity.
 
Patient was given:
___ 18:12 IV LORazepam 2 mg  
___ 18:25 PO Acetaminophen 1000 mg 
___ 18:33 IV CeftriaXONE 1 gm 
___ 18:33 IVF 1000 mL NS 1000 mL 
___ 23:28 IV Azithromycin 500 mg 
___ 01:33 IV Vancomycin 1000 mg 

Transfer VS were: 98.9 104 104/68 20 97% Nasal Cannula 
 When seen on the floor, she asks to be left alone. ROS cannot 
be obtained due to this.
  
REVIEW OF SYSTEMS: 
 A ten point ROS was conducted and was negative except as above 
in the HPI.
 
Past Medical History:
Schizophrenia
 
Social History:
___
Family History:
Could not obtain
 
Physical Exam:
 Gen: NAD, appears tachypneic, lying in bed, incontinent of 
urine
 Eyes: EOMI, sclerae anicteric  
 ENT: MMM, OP clear
 Cardiovasc: RRR, tachycardic, full pulses, no edema  
 Resp: normal effort, no accessory muscle use, coarse rhonchi on 
left side
 GI: soft, NT, ND, BS+
 MSK: No significant kyphosis. No palpable synovitis.
 Skin: No visible rash. No jaundice.
 Neuro: AAOx3. No facial droop.
 Psych: Intermittently loud outbursts, confrontational, 
tangential speech, appears to be responding to internal 
delusions

Discharge exam
98.3 108 / 70 92 18 97 RA 
Gen:  Appears older than stated age, disheveled, Poor dentitia
Lung:  CTA B
CV:  RRR, ___ systolic murmur, most notable at upper sternal 
border
ABd:  nabs, soft
Ext:  No edema ___
Psych:  Oriented to person, unable to tell me she is in the 
hospital, wants to go "home", but unable to tell me where home 
is.  

 
Pertinent Results:
___ 02:50AM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 06:30PM URINE  HOURS-RANDOM
___ 06:30PM URINE  UHOLD-HOLD
___ 06:30PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 05:51PM   LACTATE-1.4
___ 05:40PM   estGFR-Using this
___ 05:40PM   cTropnT-<0.01
___ 05:40PM   ALBUMIN-3.8 CALCIUM-8.7 PHOSPHATE-3.1 
MAGNESIUM-2.0
___ 05:40PM   D-DIMER-1693*
___ 05:40PM   WBC-13.0* RBC-4.12 HGB-12.1 HCT-36.3 MCV-88 
MCH-29.4 MCHC-33.3 RDW-12.9 RDWSD-41.3
___ 05:40PM   PLT COUNT-346
___ 04:12PM BLOOD Glucose-145* UreaN-10 Creat-0.5 Na-132* 
K-5.5* Cl-100 HCO3-19* AnGap-19

MRSA swab:  Negative

CTA Chest
Diagnostic evaluation is limited due to motion related to 
respiration. 
  
The aorta and its major branch vessels are patent, with no 
evidence of 
stenosis, occlusion, dissection, or aneurysmal formation.  There 
is no 
evidence of penetrating atherosclerotic ulcer or aortic arch 
atheroma present. 
  
There is limited evaluation of the distal segmental and 
subsegmental pulmonary arteries due to motion.  There is no 
evidence of filling defects within the pulmonary arteries to the 
proximal segmental level to suggest a pulmonary embolism.  The 
main and right pulmonary arteries are normal in caliber, and 
there is no evidence of right heart strain. 
  
There is no supraclavicular, axillary, mediastinal, or hilar 
lymphadenopathy.  A right lower paratracheal lymph node 
measuring 5 mm across shortest diameter (02:44) is not 
pathologically enlarged by CT size criteria.  The thyroid 
appears unremarkable. 
  
There is no evidence of pericardial effusion.  There is no 
pleural effusion. 
  
There is mild centrilobular emphysema.  There is consolidation 
and 
ground-glass change in the inferior aspect of the left upper 
lower lobe 
(02:50).  There are 2 other smaller areas  of consolidation in 
the left lower lobe (2:84, 90).   There is mild bronchial wall 
thickening diffusely. 
  
Limited images of the upper abdomen are unremarkable. 
  
There is a compression deformity of the T6 vertebral body 
(602b:29) without associated prevertebral soft tissue thickening 
nor fracture line identified.  Dextroscoliosis of the 
thoracolumbar spine is noted. 
  
IMPRESSION:  
  
1.  Multiple consolidations involving the left upper and left 
lower lobes 
compatible with multifocal pneumonia. 
  
2.  Diffuse bronchial wall thickening likely representing 
inflammation it may be compatible with bronchitis. 
  
3.  Limited due to patient motion but there is no evidence of 
central 
pulmonary embolism. 
  
4.  T6 vertebral body compression deformity without associated 
prevertebral soft tissue thickening likely representing a 
chronic compression fracture 

___ blood culture ___ bottles)
GRAM POSITIVE RODS. 
         CONSISTENT WITH CORYNEBACTERIUM OR                      
          
         PROPIONIBACTERIUM SPECIES. 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE ROD(S) CONSISTENT WITH CORYNEBACTERIUM OR    
          
                          PROPIONIBACTERIUM SPECIES. 

 
Brief Hospital Course:
Ms. ___ is a ___ yo CF with PMH schizophrenia presented from 
___ psych unit for hypoxia, tachycardia and pneumonia. 

# Multifocal Pneumonia - influenza negative.   MRSA swab 
negative.  Patient was started on levaquin and her fevers 
resolved.  She refused labs so her WBC count could not be 
trended.  However, given her hemodynamic stability and overall 
stable appearance clinically, it is felt that this represents 
adequate treatment.  SHe needs to take 3 additional doses of 
levaquin 750 mg po to finish a one week course of antibiotics.   


# Tachycardia -  Improved in the hospital.  Felt to be due to 
infection, ? psychosis.  She refused IV and fluids, but ate and 
drank well.  Still had borderline sinus tachycardia (HR 90-low 
100s) last few days in hospital.

# Acute psychosis - responding to internal voices, 
intermittently responds to questions, follows commands, verbal 
aggression.  She became very agitated when we discussed the 
issue of blood draws, placing IVs.  
--Continued invega (paliperidone) 9 mg at night, benztropine 
qhs. QTc 457 (she refused additional EKGs to allow for qtc 
monitoring).  Notes indicate that she was reciveing fluphenazine 
5 mg IM at night and 2.5 mg every six hour prn while at 
___, but she did not receive these at ___ as we do not 
have these on formulary.  She was evaluated by psychiatry, had a 
1:1 sitter throughout her stay.

#T6 compression fracture.  denies pain
 
# Functional status:  Patient ambulates without assistance

# ___ blood culture positive for corynebacterium:  discussed 
with ID; felt to represent a contaminant.  

# Hyponatremia:  Mild, stable.  131-132.  ? mild SIADH given 
pneumonia.  Can followpu as an outpatient.  

# Contact: Guardian ___ (brother) ___. 
Several providers called him, but he never answered the phone.  
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Benztropine Mesylate 1 mg PO QHS 
2. PALIperidone ER 9 mg PO QHS 
3. Milk of Magnesia 30 mL PO PRN constipation 
4. Ibuprofen 400 mg PO Q6H:PRN Pain - Mild 
5. TraZODone 50 mg PO QHS:PRN insomnia 
6. Mylanta 30 ml oral Q4H:PRN 
7. Nicotine Polacrilex 2 mg PO Q1H:PRN smoking cessation 
8. Fluphenazine 5 mg IM Q6H:PRN agitation 

 
Discharge Medications:
1.  Levofloxacin 750 mg PO DAILY 
take for 3 additional days  
2.  Benztropine Mesylate 1 mg PO QHS  
3.  Fluphenazine 5 mg IM QHS  
4.  Fluphenazine 2.5 mg IM Q6H:PRN agitation  
5.  Milk of Magnesia 30 mL PO PRN constipation  
6.  Mylanta 30 ml oral Q4H:PRN  
7.  Nicotine Polacrilex 2 mg PO Q1H:PRN smoking cessation  
8.  PALIperidone ER 9 mg PO QHS  
9.  TraZODone 50 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. Sepsis
2. Aspiration PNA/HCAP/Multifocal PNA
3. Schizophrenia with acute psychosis

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you during your 
hospitalization. You were diagnosed with a pneumonia that 
involved multiple areas of both sides of your lung.   You were 
given the antibiotic levaquin and you improved considerably.   
Please finish 3 additional days.  You are being discharged to 
the ___ Facility.   
 
Followup Instructions:
___